US06890923B2
(E) and (Z)-5-[2-cyclopentylethenyl]-3-methyl-1-(2-methylpropyl)-6-[[2-(trifluoromethyl)phenyl]methyl]-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione
Prepared using 5-bromo-3-methyl-1-(2-methylpropyl)-6-[[2-(trifluoromethyl)phenyl]methyl]-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione and cyclopentyl-ethene. The crude product was purified by flash silica chromatography eluting with a gradient of 5-20% ethanol in dichloromethane to give the title compound as a yellow oil (0.17 g).

reactant | 5-bromo-3-methyl-1-(2-methylpropyl)-6-[[2-(trifluoromethyl)phenyl]methyl]-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | BrC1=C(SC=2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=C(C=CC=C2)C(F)(F)F | C19H18BrF3N2O2S
reactant | cyclopentyl-ethene | C1(CCCC1)C=C | C7H12
product | (Z)-5-[2-cyclopentylethenyl]-3-methyl-1-(2-methylpropyl)-6-[[2-(trifluoromethyl)phenyl]methyl]-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.17 g | C1(CCCC1)\C=C/C1=C(SC=2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=C(C=CC=C2)C(F)(F)F | C26H29F3N2O2S
